* ==========================================================================
* @part: BZX84C16
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84093
* @origin-file: vishay/BZX84C16.txt
* @retrieved: 2026-09-24
* @licence: notice: "Copyright: Thomatronik GmbH, Germany"
* @added-by: garv.singh
* @pins: bzx84c16: 1 9
* @patched: spiceconv dots (7 change(s)), r-model (4 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

**********************************

* Model created by               *

*   Uni.Dipl.-Ing. Arpad Buermen *

*   arpad.burmen@ieee.org        *

* Copyright:                     *

*   Thomatronik GmbH, Germany    *

*   info@thomatronik.de          *

**********************************

* January 2001

*   SPICE3

*                    anode     cathode

* Reverse direction: node 1 <- node 9

.SUBCKT bzx84c16 1 9

DF 1 9 DFMOD

.MODEL DFMOD D N = 1.0941 IS = 2.67776E-014 RS = 0.96562  EG = 1.20192 XTI = 0.5  CJO = 4.58392E-011 VJ = 0.53125 M = 0.5 FC = 0.5  TT = 1E-008 TNOM = 25

* Leakage

RL 1 9 2.7216E+008 tc1=0 tc2=0


* Breakdown

ES 9 90 10 20 1

DR1 90 31 DREV1 TEMP = 25

.MODEL DREV1 D IS = 1E-015 N = 0.349955 RS = 9.87296 TNOM = 25

VR1 31 1 0.00417897

DR2 90 32 DREV2 TEMP = 25

.MODEL DREV2 D IS = 1E-015 N = 0.261167 RS = 14.8107 TNOM = 25

VR2 32 1 0.00011109

VTRIM 20 0 0.257847

IBVC 0 10 0.001

RBVC 10 0 16200 tc1=0.000875


.ENDS
