* ==========================================================================
* @part: BZX85C15
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84095
* @origin-file: vishay/BZX85C15.txt
* @retrieved: 2026-09-24
* @licence: notice: "Copyright: Thomatronik GmbH, Germany"
* @added-by: garv.singh
* @pins: bzx85c15: 1 9
* @patched: spiceconv dots (7 change(s)), r-model (4 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

**********************************

* Model created by               *

*   Uni.Dipl.-Ing. Arpad Buermen *

*   arpad.burmen@ieee.org        *

* Copyright:                     *

*   Thomatronik GmbH, Germany    *

*   info@thomatronik.de          *

**********************************

* January 2001

*   SPICE3

*                    anode     cathode

* Reverse direction: node 1 <- node 9

.SUBCKT bzx85c15 1 9

DF 1 9 DFMOD

.MODEL DFMOD D N = 2 IS = 2E-008 RS = 0.608967  EG = 1.11 XTI = 3  CJO = 1.02339E-010 VJ = 0.621524 M = 0.325578 FC = 0.5  TT = 1E-008 TNOM = 25

* Leakage

RL 1 9 3.3E+007 tc1=0 tc2=0


* Breakdown

ES 9 90 10 20 1

DR1 90 31 DREV1 TEMP = 25

.MODEL DREV1 D IS = 1E-015 N = 2.14903 RS = 7.38742 TNOM = 25

VR1 31 1 0.0234612

DR2 90 32 DREV2 TEMP = 25

.MODEL DREV2 D IS = 1E-015 N = 1.88644 RS = 3.39612 TNOM = 25

VR2 32 1 0.297433

VTRIM 20 0 1.74057

IBVC 0 10 0.001

RBVC 10 0 14700 tc1=0.000725


.ENDS
