* ==========================================================================
* @part: BZX55 zener series
* @family: diodes
* @source: Vishay
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library, Spectrum Software)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/vishaydiode.lib
* @retrieved: 2026-09-24
* @licence: notice: "Copyright: Thomatronik GmbH, Germany"
* @added-by: nav
* @pins: BZX55C2V7: a c
* @pins: BZX55C3V6: a c
* @pins: bzx55c3v9: 1 2
* @pins: BZX55C5V1: a c
* @pins: BZX55C6V2: a c
* @pins: bzx55c9v1: 1 2
* @pins: BZX55C18: a c
* @pins: bzx55c24: 1 2
* @pins: BZX55C30: a c
* @pins: BZX55C68: a c
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
*Vishay Diode Library

*BY203 20S
* Technology: DISCRETE DIODE
* Device: Rectifier Diode BY 203 20S
* Description:
* Type: Typical (nom)
* Subcircuit: 03.03.1997, by S.Reuter, TM1iCP224-HN
* Remarks:
* Revision: 03.03.1997
* Simulation Model: Macro Model
* Simulator: PSPICE
* Subcircuit Call: Xname n1 n2 BY20320S
* Node Assignments: a=Anode, c=Cathode
* ---- end of original file header ----

* ---- vendor notice (copied intact) ----

**********************************
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   SPICE3

* ---- vendor notice (copied intact) ----

**********************************
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   PSPICE

.SUBCKT BZX55C3V6 a c
DF a c DFOR
DR c a DREV
DB b a DBRE
EB c b POLY(1) d 0 2.35 1
IB 0 d 1m
RB 0 d 1k TC=-0.1m
.MODEL DFOR D
+ IS = 9p RS = 0 N = 1.5 CJO= 252p
+ VJ = 500m M = 345m FC = 700m XTI= 3
+ EG = 1
.MODEL DREV D
+ IS = 100f N = 10 XTI= 3 EG =1.186
.MODEL DBRE D
+ IS = 10f RS = 10 N = 1 XTI= 0
+ EG =1.186
.ENDS BZX55C3V6

.SUBCKT BZX55C5V1 a c
DF a c DFOR
DR c a DREV
DB b a DBRE
EB c b POLY(1) d 0 3.6 1
IB 0 d 1m
RB 0 d 1k TC=3m
.MODEL DFOR D
+ IS = 1p RS = 3.5 N = 1.4 CJO= 178p
+ VJ = 610m M = 335m FC = 700m XTI= 3
+ EG =1.186
.MODEL DREV D
+ IS = 100f N = 30 XTI= 3 EG =1.186
.MODEL DBRE D
+ IS = 10f RS = 6 N = 1 XTI= 0
+ EG =1.186
.ENDS BZX55C5V1

.SUBCKT BZX55C6V2 a c
DF a c DFOR
DR c a DREV
DB b a DBRE
EB c b POLY(1) d 0 4.6 1
IB 0 d 1m
RB 0 d 1k TC=4m
.MODEL DFOR D
+ IS = 32p RS = 0 N = 1.6 CJO= 128p
+ VJ = 685m M = 342m FC = 700m XTI= 3
+ EG =1.186
.MODEL DREV D
+ IS = 100f N = 12 XTI= 3 EG =1.186
.MODEL DBRE D
+ IS = 10f N = 1 XTI= 0 EG =1.186
.ENDS BZX55C6V2

.SUBCKT BZX55C18 a c
DF a c DFOR
DR c a DREV
DB b a DBRE
EB c b POLY(1) d 0 16.2 1
IB 0 d 1m
RB 0 d 1k TC=19m
.MODEL DFOR D
+ IS = 60p RS = 500m N = 1.6 CJO=43.6p
+ VJ = 700m M = 420m FC = 700m XTI= 3
+ EG =1.186
.MODEL DREV D
+ IS = 100f N = 34 XTI= 3 EG =1.186
.MODEL DBRE D
+ IS = 10f RS = 20 N = 1 XTI= 0
+ EG =1.186
.ENDS BZX55C18

* ---- vendor notice (copied intact) ----

**********************************
* Copyright:                     *

.SUBCKT BZX55C30 a c
DF a c DFOR
DR c a DREV
DB b a DBRE
EB c b POLY(1) d 0 26.8 1
IB 0 d 1m
RB 0 d 1k TC=27m
.MODEL DFOR D
+ IS = 1p RS = 500m N = 1.4 CJO= 23p
+ VJ = 520m M = 330m FC = 700m XTI= 3
+ EG =1.186
.MODEL DREV D
+ IS = 100f N = 55 XTI= 3 EG =1.186
.MODEL DBRE D
+ IS = 10f RS = 22 N = 1 XTI= 0
+ EG =1.186
.ENDS BZX55C30

.SUBCKT BZX55C68 a c
DF a c DFOR
DR c a DREV
DB b a DBRE
EB c b POLY(1) d 0 68.8 1
IB 0 d 1m
RB 0 d 1k TC=80m
.MODEL DFOR D
+ IS = 40p RS = 500m N = 1.6 CJO=6.83p
+ VJ = 615m M = 340m FC = 700m XTI= 3
+ EG =1.186
.MODEL DREV D
+ IS = 100f N = 200 XTI= 3 EG =1.186
.MODEL DBRE D
+ IS = 10f RS = 160 N = 1 XTI= 0
+ EG =1.186
.ENDS BZX55C68

* ---- vendor notice (copied intact) ----

**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* May 2001
*   SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 9


* ---- vendor notice (copied intact) ----

**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* November 2000
*   SPICE3
* 1 ... cathode 1
* 2 ... cathode 2
* 3 ... common anode


* ---- vendor notice (copied intact) ----

**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   SPICE3

* ---- vendor notice (copied intact) ----

**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 9


* ---- vendor notice (copied intact) ----

****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2


.SUBCKT bzx55c24 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573
+ TT=1E-006 CJO=2.77E-011 VJ=0.6 M=0.33)
* Leakage
RL 1 2 RLMOD 1.8E+008
.MODEL RLMOD RES(TC1=0.0078 TC2=0 t_measured=25)
* Breakdown
EZ 2 3 5 0 1
R1 3 4 0.0500369
VD1 10 4 0.92297
D1 10 1 DMOD1
.MODEL DMOD1 D(IS=1e-12 N=1.44285 RS=18.4313 t_measured=27 T_abs=27)
VD2 20 4 0.377868
D2 20 1 DMOD2
.MODEL DMOD2 D(IS=1e-12 N=0.997121 RS=273.693 t_measured=27 T_abs=27)
I1 0 5 0.001
RVZ 5 0 RVZMOD 24000
.MODEL RVZMOD RES(TC1=0.00065 TC2=0 t_measured=25)
.ENDS

.SUBCKT bzx55c3v9 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573
+ TT=1E-006 CJO=2.98E-010 VJ=2.88 M=0.33)
* Leakage
RL 1 2 RLMOD 500000
.MODEL RLMOD RES(TC1=0.0076 TC2=0 t_measured=25)
* Breakdown
EZ 2 3 9 0 1
VZC 4 3 9.22476
D1 4 5 DMOD1
.MODEL DMOD1 D(IS=1e-12 N=16.0012 RS=1.00186 t_measured=27 T_abs=27)
VD 6 5 0.000690018
D2 6 1 DMOD2
.MODEL DMOD2 D(IS=1e-12 N=1.00517 t_measured=27 T_abs=27)
ID 5 1 0.161192
RD 5 1 0.0847951
I1 0 9 0.001
RVZ 9 0 RVZMOD 3900
.MODEL RVZMOD RES(TC1=-0.0005 TC2=0 t_measured=25)
.ENDS

.SUBCKT bzx55c9v1 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573
+ TT=1E-006 CJO=8.57E-011 VJ=0.13 M=0.33)
* Leakage
RL 1 2 RLMOD 7E+007 
.MODEL RLMOD RES(TC1=0.0076 TC2=0 t_measured=25)
* Breakdown
EZ 2 3 5 0 1
R1 3 4 0.125478
VD1 10 4 0.580266
D1 10 1 DMOD1
.MODEL DMOD1 D(IS=1e-12 N=1.40602 RS=4.13449 t_measured=27 T_abs=27)
VD2 20 4 0.554183
D2 20 1 DMOD2
.MODEL DMOD2 D(IS=1e-12 N=1.00429 RS=0.481439 t_measured=27 T_abs=27)
VD3 30 4 0.139582
D3 30 1 DMOD3
.MODEL DMOD3 D(IS=1e-12 N=0.212653 RS=5.87344 t_measured=27 T_abs=27)
I1 0 5 0.001
RVZ 5 0 RVZMOD 9100
.MODEL RVZMOD RES(TC1=0.0006 TC2=0 t_measured=25)
.ENDS

* ---- vendor notice (copied intact) ----
*$

**********************************
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   PSPICE
*                    anode     cathode
* Reverse direction: node 9 <- node 2

* ---- vendor notice (copied intact) ----

**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* December 2000
*   SPICE3
*                    anode     cathode
* Reverse direction: node 9 <- node 2

.SUBCKT BZX55C2V7 a c

 DF a c DFOR
 DR c a DREV
 DB b a DBRE
 EB c b POLY(1) d 0 1.6 1
 IB 0 d 1m
 RB 0 d 1k TC=-0.1m

.MODEL DFOR D
 + IS =   12p  RS =    0  N  =  1.5  CJO= 300p
 + VJ = 500m  M  = 345m  FC = 700m  XTI=    3
 + EG =    1

.MODEL DREV D
 + IS = 150f  N  =   10  XTI=    3  EG =1.186

.MODEL DBRE D
 + IS =  12f  RS =   10  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX55C2V7
