* ==========================================================================
* @part: GLL4747
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?84097
* @origin-file: vishay/GLL4747.txt
* @retrieved: 2026-09-24
* @licence: notice: "(c)2000 Thomatronik GmbH info@thomatronik.de"
* @added-by: garv.singh
* @pins: gll4747: 1 2
* @patched: spiceconv dots (8 change(s)), r-model (4 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

****************************************

* (c)2000 Thomatronik GmbH             *

*   info@thomatronik.de                *

*                                      *

* Author: Arpad Buermen                *

*   Arpad.Burmen@ieee.org              *

*   Arpad.Buermen@fe.uni-lj.si         *

****************************************



* Version: SPICE3

*                    anode     cathode

* Reverse direction: node 1 <- node 2



.SUBCKT gll4747 1 2

DF 1 2 DFMOD

.MODEL DFMOD D(N=1.85245 IS=1E-009 RS=0.0927232 EG=1.11 XTI=3  TT=1E-006 CJO=1E-011)

* Leakage

RL 1 2 5E+008 tc1=0.013 tc2=0


* Breakdown

EZ 2 3 5 0 1

R1 3 4 0.00596224

VD1 10 4 2.08811

D1 10 1 DMOD1 TEMP=27

.MODEL DMOD1 D(IS=1e-12 N=3.23827 RS=11.6086 TNOM=27)

VD2 20 4 0.378665

D2 20 1 DMOD2 TEMP=27

.MODEL DMOD2 D(IS=1e-12 N=0.97019 RS=7.94496 TNOM=27)

VD3 4 30 3.6558

D3 30 1 DMOD3 TEMP=27

.MODEL DMOD3 D(IS=1e-12 N=0.232558 RS=0.155187 TNOM=27)

I1 0 5 0.001

RVZ 5 0 20000 tc1=0.00175 tc2=0


.ENDS
