* ==========================================================================
* @part: SMBJ5.0A TVS
* @family: diodes
* @source: Vishay
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/vishaydiode.lib
* @retrieved: 2026-09-24
* @licence: notice: "Copyright: Thomatronik GmbH, Germany"
* @added-by: garv.singh
* @pins: smbj5_0a: 7 1
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
*Vishay Diode Library

*BY203 20S
* Technology: DISCRETE DIODE
* Device: Rectifier Diode BY 203 20S
* Description:
* Type: Typical (nom)
* Subcircuit: 03.03.1997, by S.Reuter, TM1iCP224-HN
* Remarks:
* Revision: 03.03.1997
* Simulation Model: Macro Model
* Simulator: PSPICE
* Subcircuit Call: Xname n1 n2 BY20320S
* Node Assignments: a=Anode, c=Cathode
* ---- end of original file header ----

* ---- vendor notice (copied intact) ----

**********************************
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   PSPICE
*                    anode     cathode
* Reverse direction: node 9 <- node 2

.SUBCKT smbj5_0a 7 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 21, 00
* MODEL FORMAT: PSPICE
*     anode cathode
*node: 7      1
*    Forward Section
D1 2 1 MDD1
.MODEL MDD1 D IS=1.10847e-16 N=1 XTI=1 RS=0.035 T_ABS=25
+ CJO=5e-09 TT=1e-08
*    Leakage Current
R 1 2 MDR 62500
.MODEL MDR RES (TC1=0 TC2=0)
*    Breakdown
RZ 2 3 0.0412051 
D3 4 3 MDD3
.MODEL MDD3 D T_ABS=25 IS=2.5e-15 N=0.5 
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 6400
.MODEL MDRBV RES (TC1=0.001)
D4 8 0 MDD3
L 7 2 1e-15
IT 0 8 0.01
.ENDS smbj5_0a
