* ==========================================================================
* @part: generic LEDs, 1N4733A, 1N4742A, bridge rectifier
* @family: diodes
* @source: Repo
* @url: (written for this repo)
* @retrieved: 2026-09-24
* @licence: MIT
* @added-by: nav
* ==========================================================================
* ============================================================================
* generic_diodes_repo.lib  --  flag: BOTH (native ngspice)   licence: MIT
* ----------------------------------------------------------------------------
* Written for this repository. Teaching-grade approximations fitted by hand to
* datasheet headline values; check against bench measurements before relying
* on them. Values printed by tests/diodes_generic.cir.
* ============================================================================

* Red LED:   Vf ~ 2.0 V  @ 20 mA
* Green LED: Vf ~ 2.15 V @ 20 mA
.model LED_RED_GEN   D(Is=1e-18 N=2 Rs=5 Cjo=20p Bv=5 Ibv=10u)
.model LED_GREEN_GEN D(Is=1e-19 N=2 Rs=5 Cjo=20p Bv=5 Ibv=10u)

* Zeners: Bv set to nominal Vz at the datasheet test current Izt
*   1N4733A: 5.1 V @ 49 mA     1N4742A: 12 V @ 21 mA
.model 1N4733A_GEN D(Is=1n N=1.5 Rs=2 Cjo=300p M=.4 Bv=5.1 Ibv=49m)
.model 1N4742A_GEN D(Is=1n N=1.5 Rs=2 Cjo=150p M=.4 Bv=12 Ibv=21m)

* Generic 1 A / 1000 V rectifier (1N400x-like)
.model DRECT_GEN D(Is=15n N=1.8 Rs=30m Cjo=30p Bv=1000 Ibv=5u Tt=5u)

* Full-wave bridge from four rectifier diodes (DB107 / W04 / KBP style)
* Pins: AC1 AC2 +DC -DC
.subckt BRIDGE_GEN ac1 ac2 pos neg
D1 ac1 pos DRECT_GEN
D2 ac2 pos DRECT_GEN
D3 neg ac1 DRECT_GEN
D4 neg ac2 DRECT_GEN
.ends BRIDGE_GEN
